US06320078B1
A N,N-dimethylformamide (150 ml) solution including 65.4 g (0.6 mole) of 3-pyridinemethanol was added dropwise to a N,N-dimethylformamide (300 ml) suspension including 97.2 g (0.6 mole) of N,N′-carbonyldiimidazole at an internal temperature of 10° C. or less. The mixture was then added dropwise to a separately prepared 1 N aqueous sodium hydroxide solution (455 ml) including 75.5 g (0.5 mole) of 4-aminomethylbenzoic acid, followed by stirring at room temperature for 6 hours. To the resultant reaction mixture, a saturated sodium chloride solution was added, and concentrated hydrochloric acid was further added, thereby neutralizing the solution. After aging at 5° C. for 2 hours, the deposited white solid was collected by filtration, washed with water and methanol, and then dried to obtain 140 g (yield: 98%) of 4-[N-(pyridin-3-ylmethoxycarbonyl)amino-methyl]benzoic acid.

reactant | 3-pyridinemethanol | 0.6 mole, 65.4 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | sodium hydroxide | 1 N, 455 ml | [OH-].[Na+]
reactant | 4-aminomethylbenzoic acid | 0.5 mole, 75.5 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-[N-(pyridin-3-ylmethoxycarbonyl)amino-methyl]benzoic acid | 140 g, yield: 98% | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
